### PR TITLE
Start Agda base library

### LINKED ISSUE #28: Start Agda base library
The [free-proving-agda](https://github.com/FreeProving/free-proving-agda-code/) project already contains an implementation of the free monad together with some case studies and utilities. Copy the core data types and functions to the new Agda base libary in `./base/agda` and create a new `.agda-lib` file.

### PR DESCRIPTION
**Pull request by JonasHoefer**
Imports the `Free` monad and some utilities from the [free proving Agda code](https://github.com/FreeProving/free-proving-agda-code) project. Checks Agda base lib during CI Pipeline runs. Closes #28

### CODE REVIEW

File: base/agda/Free/Maybe.agda [hunk 1]
```diff
@@ -0,0 +1,22 @@
+module Free.Maybe where
+
+open import Data.Unit  using (⊤; tt)
+open import Data.Empty using (⊥)
+
+open import Free       using (Free; pure; impure)
+
+
+-- representation of the maybe monad using Free
+Shape = ⊤
```
Comment (just95) [inline base/agda/Free/Maybe.agda]:
```suggestion
Shape : Set
Shape = ⊤
```

File: base/agda/Free/Maybe/Properties.agda [hunk 2]
```diff
@@ -0,0 +1,27 @@
...
+
+Maybe≃MaybeF : ∀ {A} → Maybe A ≃ MaybeF A
+to Maybe≃MaybeF (just x) = Just x
+to Maybe≃MaybeF nothing  = Nothing
+from Maybe≃MaybeF (pure x)      = just x
+from Maybe≃MaybeF (impure tt _) = nothing
+from∘to Maybe≃MaybeF (just x) = refl
+from∘to Maybe≃MaybeF nothing  = refl
+to∘from Maybe≃MaybeF (pure x)      = refl
+to∘from Maybe≃MaybeF (impure tt x) = cong (impure tt) (∀-extensionality λ())
```
Comment (just95) [inline base/agda/Free/Maybe/Properties.agda]: Since the Coq base library does not contain the isomorphism, I'd not include them in the Agda base library either. They are not needed for the translation and are usually also not needed for proofs about translated programs.

File: tool/check-agda.sh [hunk 3]
```diff
@@ -0,0 +1,35 @@
...
+# Delete `_build` folder iff the user wants to rebuild everything
+if [ "$rebuild" = true ] ; then
+    echo "Removing _build directory"
+    rm -r _build
+fi
+
+# check all agda files
+for f in $(find . -name "*.agda")
+  do agda "$f"
+done
```
Comment (just95) [inline tool/check-agda.sh]: The `while …; do` notation that you are using above is what I'm familiar with (and use in the other scripts). For the sake of consistency I'd update the `for` loop (including the loop in the CI pipeline) to use the same notation.

```suggestion
for f in $(find . -name "*.agda"); do
  agda "$f"
done
```

File: tool/check-agda.sh [hunk 4]
```diff
@@ -0,0 +1,35 @@
...
+    r)
+      rebuild=true
+      ;;
+    \?)
+      exit 1
+      ;;
+  esac
+done
+
+# change into the directory containing the Agda modules
```
Comment (just95) [inline tool/check-agda.sh]: Please make ure that all comments (including comments in `.agda` files) are full sentences.

```suggestion
# Change into the directory containing the Agda modules.
```

File: base/agda/Free/Maybe.agda [hunk 5]
```diff
@@ -0,0 +1,22 @@
+module Free.Maybe where
```
Comment (just95) [inline base/agda/Free/Maybe.agda]: In the Coq base library the instances of the `Free` monad have the common prefix `Free.Instance`. I'd recommend to keep the same general structure of the Coq base library in the Agda base library.

```suggestion
module Free.Instance.Maybe where
```

File: base/agda/Free/Maybe.agda [hunk 6]
```diff
@@ -0,0 +1,22 @@
...
+Position _ = ⊥
+
+Maybe : Set → Set
+Maybe = Free Shape Position
+
+Nothing : ∀ {A} → Maybe A
+Nothing = impure tt λ()
+
+Just : ∀ {A} → A → Maybe A
+Just x = pure x
```
Comment (just95) [inline base/agda/Free/Maybe.agda]: Please make sure that all source files end with a newline character (if permitted by the file format).

File: base/agda/Free.agda [hunk 7]
```diff
@@ -0,0 +1,19 @@
...
+_>>=_ : {S : Set} {P : S → Set} {A : Set} {B : Set} → Free S P A → (A → Free S P B) → Free S P B
+pure   x    >>= k = k x
+impure s pf >>= k = impure s λ p → pf p >>= k
+
+infixl 4 _⊛_
+_⊛_ : ∀ {S P A B} → Free S P (A → B) → Free S P A → Free S P B
+mf ⊛ mx = mf >>= λ f → mx >>= λ x → pure (f x)
+
+liftA2 : ∀ {S P A B C} → (A → B → C) → (Free S P A → Free S P B → Free S P C)
+liftA2 f x y = pure f ⊛ x ⊛ y
```
Comment (just95) [inline base/agda/Free.agda]: I don't think we need `_⊛_` and `liftA2` for the translation to Agda. Thus, I wouldn't include them in the base library.

File: tool/full-test.sh [hunk 8]
```diff
@@ -425,12 +425,19 @@ step "Building the command line interface"        \
...
+     "Failed to build the Coq base library" \
+     "Canceled Coq base library build"      \
+     "./tool/compile-coq.sh --recompile base/coq"
+
+# Build the Agda base library.
+step "Building the Agda base library"        \
+     "Built Agda base library successfully"  \
+     "Failed to build the Agda base library" \
+     "Canceled Agda base library build"      \
+     "./tool/check-agda.sh -r base/agda"
```
Comment (just95) [inline tool/full-test.sh]: Since `./tool/check-agda.sh` uses `agda`, `agda` must be added to `check_required_software`.

File: tool/check-agda.sh [hunk 9]
```diff
@@ -0,0 +1,35 @@
+#!/bin/bash
+
+# Change into the compiler's root directory.
+script=$(realpath "$0")
+script_dir=$(dirname "$script")
+root_dir=$(dirname "$script_dir")
+cd "$root_dir"
+
+# consume parameters
+while getopts "r" opt; do
```
Comment (just95) [inline tool/check-agda.sh]: The problem with `getopts` is that it does not support long option names (such as `--recompile`). Short options such as `-r` are easy to type but can be confusing to new users. That's why I "parse" the command line options manually in the other scripts. Alternatively, we could try [`getopt`](https://www.man7.org/linux/man-pages/man1/getopt.1.html) which seems to support long options.

**Review by just95 — CHANGES_REQUESTED** [review]

File: base/agda/Free/Maybe/Properties.agda (hunk 2 above)
Comment (ichistmeinname) [reply base/agda/Free/Maybe/Properties.agda]: Maybe we can add a `Meta`-directory, where we can include such "meta formalisms". Could be a nice finger-exercise to add these proofs for Coq as well.

File: base/agda/Free/Instance/Maybe/Properties.agda [hunk 10]
```diff
@@ -0,0 +1,27 @@
+
```
Comment (just95) [inline base/agda/Free/Instance/Maybe/Properties.agda]:
```suggestion
```

File: base/agda/Free/Instance/Identity.agda [hunk 11]
```diff
@@ -0,0 +1,16 @@
...
+
+-- representation of the identity monad using free
+Shape : Set
+Shape = ⊥
+
+Position : Shape → Set
+Position _ = ⊥
+
+Identity : Set → Set
+Identity = Free Shape Position
```
Comment (just95) [inline base/agda/Free/Instance/Identity.agda]: Most `.agda` files still don't have a trailing newline.

File: base/agda/Free.agda [hunk 12]
```diff
@@ -0,0 +1,12 @@
+module Free where
+
+-- free monad over shapes S and positions P
```
Comment (just95) [inline base/agda/Free.agda]: The comments in the `.agda` files should also be proper sentences and formatted using Markdown.

**Review by just95 — CHANGES_REQUESTED** [review]

**Review by ichistmeinname — APPROVED** [review]

**Review by just95 — APPROVED** [review]
